US07601870B2
1p N-(4-Bromo-2,6-dimethyl-phenyl)-2-cyclopentyl-acetamide
4-Bromo-2,6-dimethyl-aniline (4.3 g) and cyclopentylacetyl chloride (3.46 g) were mixed in acetonitrile (50 mL) and tetrahydrofuran (20 mL) and the reaction mixture was heated to reflux for 1 hour. Potassium carbonate (4.5 g) was added and the reaction mixture was refluxed for 1 hour and then poured onto crushed ice and saturated aqueous potassium carbonate (50 mL). The product was collected by filtration and washed with water (100 mL) to furnish 6.6 g (100% yield) of the title compound as a solid. LC-MS (m/z) 311 (MH+); tR=3.07, (UV, ELSD) 100%, 100%. 1H NMR (500 MHz, DMSO-d6): 1.21 (m, 2H), 1.52 (m, 2H), 1.61 (m, 2H), 1.77 (m, 2H), 2.11 (s, 6H), 2.25 (m, 1H), 2.31 (d, 2H), 7.27 (s, 2H), 9.23 (s, 1H).

reactant | 4-Bromo-2,6-dimethyl-aniline | 4.3 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | cyclopentylacetyl chloride | 3.46 g | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | Potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2,6-dimethyl-phenyl)-2-cyclopentyl-acetamide | 6.6 g, 100% yield | BrC1=CC(=C(C(=C1)C)NC(CC1CCCC1)=O)C | C15H20BrNO
